US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzol-2-aminobenzenesulphonamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (0.035 mmol) was coupled with 2-aminobenzenesulphonamide (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 11 mg (54%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 2-aminobenzenesulphonamide | 0.175 mmol | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzol 2-aminobenzenesulphonamide | 11 mg, 54% | BrC=1C=CC=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br.NC1=C(C=CC=C1)S(=O)(=O)N | InChI=1S/C15H14Br2O2.C6H8N2O2S/c1-9(2)11-8-10(6-7-14(11)18)19-15-12(16)4-3-5-13(15)17;7-5-3-1-2-4-6(5)11(8,9)10/h3-9,18H,1-2H3;1-4H,7H2,(H2,8,9,10)
